US04260619
To the mixture of 26.7 g of 2-(2-isopropylaminopropyl)-5-pyridinol dihydrochloride, 200 ml of methylene chloride and 100 ml of saturated aqueous sodium carbonate, 16 ml of methanesulfonyl chloride are added dropwise while stirring at 0°-10° and adding more sodium carbonate to maintain basicity. Stirring is continued for 30 minutes at pH=9.5-10 and the mixture is combined with half of its volume of saturated aqueous sodium chloride. It is separated, the aqueous layer extracted with methylene chloride, the combined organic solutions washed with saturated aqueous sodium carbonate, dried and evaporated, to yield the 2-(2-isopropylaminopropyl)-5-methanesulfonyloxypyridine as an oil.

reactant | 2-(2-isopropylaminopropyl)-5-pyridinol dihydrochloride | 26.7 g | Cl.Cl.C(C)(C)NC(CC1=NC=C(C=C1)O)C
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanesulfonyl chloride | 16 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-isopropylaminopropyl)-5-methanesulfonyloxypyridine | C(C)(C)NC(CC1=NC=C(C=C1)OS(=O)(=O)C)C | C12H20N2O3S
